US07304081B2
(1R)-1′-[(1-{4-[(E)-2-(4-Methylphenyl)vinyl]phenyl}-cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (25 mg, 0.061 mmol), [(E)-2-(4-methylphenyl)vinyl]boronic acid (11 mg, 0.067 mmol), tri-tert-butylphosphine (1.5 mg, 0.007 mmol), tris(dibenzylideneacetone)dipalladium(0) (3 mg, 0.003 mmol), potassium fluoride (12 mg, 0.2 mmol) in tetrahydrofuran (0.4 ml) was microwave irradiated at 90° C. for 20 minutes. The desired product was obtained from the mixture by prep-HPLC (13.7 mg, yield: 50%). LCMS: m/z 450.2 (M+H)+; 472.2 (M+Na)+.

reactant | (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.061 mmol, 25 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H18BrNO3
reactant | [(E)-2-(4-methylphenyl)vinyl]boronic acid | 0.067 mmol, 11 mg | CC1=CC=C(C=C1)/C=C/B(O)O | C9H11BO2
reactant | tri-tert-butylphosphine | 0.007 mmol, 1.5 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium fluoride | 0.2 mmol, 12 mg | [F-].[K+]
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.003 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-[(1-{4-[(E)-2-(4-Methylphenyl)vinyl]phenyl}-cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | yield: 50% | CC1=CC=C(C=C1)/C=C/C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C30H27NO3
